US08283364B2
1,1-Dimethylethyl 4-(4-fluoro-6-methoxy-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinecarboxylate (D13b)
A mixture of 1,1-dimethylethyl 4-[(2-amino-3-fluoro-5-methoxyphenyl)amino]-1-piperidinecarboxylate (D13a) (230 mg, 0.7 mmol), carbonyl diimidazole (150 mg, 1.0 mmol), and tetrahydrofuran (6 ml) was heated 1 h at 50° C. then partitioned between dichloromethane and water. The organic layer was purified by chromatography on silicagel eluting with 0 to 10% methanol in dichloromethane containing 0.2M ammonia to give the title compound as white crystals, 47%, 120 mg, M−−H=364.

reactant | 1,1-dimethylethyl 4-[(2-amino-3-fluoro-5-methoxyphenyl)amino]-1-piperidinecarboxylate | 0.7 mmol, 230 mg | NC1=C(C=C(C=C1F)OC)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26FN3O3
reactant | carbonyl diimidazole | 1.0 mmol, 150 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 4-(4-fluoro-6-methoxy-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinecarboxylate | FC1=CC(=CC=2N(C(NC21)=O)C2CCN(CC2)C(=O)OC(C)(C)C)OC | C18H24FN3O4
